US06320081B1
Preparation of bis(3-hydroxy-4-amino-2,5,6-trifluorophenyl) ether
44 g of 1-(3-hydroxy-4-nitro-2,5,6-trifluorophenoxy)-3-(prop-2-enyloxy)-4-nitro-2,5,6-tri-fluorobenzene prepared as described in Example 10 (0.1 mol) are dissolved in 400 ml of a mixture of tetrahydrofuran and ethyl acetate (volume ratio 1:1), and 4.4 g of Pd/C (palladium/carbon) are added to the solution. The solution is then stirred vigorously for 6 hours at room temperature in an autoclave in order to remove the allyl protecting group. Hydrogen is then passed in, and the mixture is hydrogenated at a pressure of 1 bar; after 3 days, the reaction is terminated. The yellow solution is evaporated to half in a rotary evaporator and left to stand at room temperature overnight, during which the reaction product precipitates in crystalline form. The reaction product is then separated off and dried for 48 hours under nitrogen at 40° C./10 mbar in a vacuum drying cabinet.

reactant | 1-(3-hydroxy-4-nitro-2,5,6-trifluorophenoxy)-3-(prop-2-enyloxy)-4-nitro-2,5,6-tri-fluorobenzene | 44 g | OC=1C(=C(OC2=C(C(=C(C(=C2F)F)[N+](=O)[O-])OCC=C)F)C(=C(C1[N+](=O)[O-])F)F)F | C15H6F6N2O7
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 4.4 g | [Pd] | Pd
product | bis(3-hydroxy-4-amino-2,5,6-trifluorophenyl) ether | OC=1C(=C(C(=C(C1N)F)F)OC1=C(C(=C(C(=C1F)F)N)O)F)F | C12H6F6N2O3
